US04853414
Lithium aluminium hydride (0.5 g) was added to a stirred solution of methyl 2-methoxy-4-methyl-3,5,6-trifluorobenzoate (6.2 g) in sodium dried diethyl ether (50 cm3) and the mixture stirred for a further three hours. The mixture was then stood at the ambient temperature for a further 17 hours. After pouring the mixture into water and acidifying with dilute hydrochloric acid the resultant mixture was extracted with diethyl ether. The ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure yielded 2-methoxy-4-methyl-3,5,6-trifluorobenzyl alcohol (5.0 g) as a low melting white solid.

reactant | Lithium aluminium hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methoxy-4-methyl-3,5,6-trifluorobenzoate | 6.2 g | COC1=C(C(=O)OC)C(=C(C(=C1F)C)F)F | C10H9F3O3
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium | 50 cm3 | [Na] | Na
product | 2-methoxy-4-methyl-3,5,6-trifluorobenzyl alcohol | 5.0 g | COC1=C(CO)C(=C(C(=C1F)C)F)F | C9H9F3O2
